US06172057B2
4-(4-Methoxy-benzenesulfonyl)-1-napthalene-ylmethyl-piperidine-4-carboxylic acid was prepared starting from 4-(4-methoxy-benzenesulfonyl)-napthalene-ylmethyl-piperidine-4-carboxylic acid ethyl ester (6.3 g, 13 mmol) dissolved in methanol (30 mL), 10 N sodium hydroxide (30 mL) and tetrahydrofuran (30 mL). The resulting reaction mixture was worked up as outlined in example 83. Yield 2.3 g (36%). yellow solid mp 226-228° C., MS: 440.0 (M+H)+.

reactant | 4-(4-methoxy-benzenesulfonyl)-napthalene-ylmethyl-piperidine-4-carboxylic acid ethyl ester | 13 mmol, 6.3 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C26H29NO5S
reactant | sodium hydroxide | 10 N, 30 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | 4-(4-Methoxy-benzenesulfonyl)-1-napthalene-ylmethyl-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=CC2=CC=CC=C12)C(=O)O | C24H25NO5S
